US04124593
The mixture of 3.0 g of N-(4-nitro-2-hydroxymethylphenyl)-4-chlorophthalimide, 1.5 g of Raney nickel and 250 ml of ethyl acetate is hydrogenated at room temperature and atmospheric pressure until the hydrogen uptake ceases. It is filtered, the filtrate evaporated and the residue recrystallized from ethyl acetate-diethyl ether, to yield the N-(4-amino-2-hydroxymethylphenyl)-4-chlorophthalimide melting at 228°-230°.

reactant | N-(4-nitro-2-hydroxymethylphenyl)-4-chlorophthalimide | 3.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CO | C15H9ClN2O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1.5 g | [Ni] | Ni
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-2-hydroxymethylphenyl)-4-chlorophthalimide | NC1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CO | C15H11ClN2O3
